US08486939B2
Similarly, reaction of 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-1H-benzimidazole and N,N-dimethyl-3-{[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]oxy}-1-propanamine, as in Example 47, gave N-[3-({5-[2-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-4-pyrimidinyl]-2-Pyridinyl}oxy)propyl]-N,N-dimethylamine in 33% yield: mp (CH2Cl2/hexanes) 140-141° C.; 1H NMR (DMSO-d6) δ 9.07 (d, J=2.2 Hz, 1H), 8.53 (dd, J=8.8, 2.5 Hz, 1H), 8.37 (d, J=8.2 Hz, 1H), 7.87 (d, J=7.9 Hz, 1H), 7.80 (t, JHF=52.8 Hz, 1H), 7.52 (dt, J=7.8, 1.0 Hz, 1H), 7.50 (dd J=8.1, 1.0 Hz, 1H), 7.42 (s, 1H), 7.00 (d, J=8.7 Hz, 1H), 4.39 (t, J=6.6 Hz, 2H), 3.85-3.84 (m, 4H), 3.78-3.76 (m, 4H), 2.39 (t, J=7.1 Hz, 2H), 2.17 (s, 6H), 1.89 (quintet, 2H); Anal. Calcd. for C26H29F2N7O: C, 61.3; H, 5.7; N, 19.2. Found: C, 61.0; H, 5.5; N, 19.1%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-1H-benzimidazole | ClC1=NC(=NC(=C1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C16H14ClF2N5O
reactant | N,N-dimethyl-3-{[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]oxy}-1-propanamine | CN(CCCOC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C16H27BN2O3
product | N-[3-({5-[2-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-4-pyrimidinyl]-2-Pyridinyl}oxy)propyl]-N,N-dimethylamine | 33% yield | FC(C1=NC2=C(N1C1=NC(=CC(=N1)C=1C=CC(=NC1)OCCCN(C)C)N1CCOCC1)C=CC=C2)F | C26H29F2N7O2
